US04356313
4,5-Dichloro-6-methoxy-2,3-dihydro-1H-indene (21 gm., 0.097 mole) is dissolved in acetic acid (280 ml.) and chromium trioxide (14 gm., 0.14 mole) in a mixture of water (15 ml.) and acetic acid (40 ml.) is added dropwise with stirring over a period of one hour. The mixture is poured, with stirring into cold water (1200 ml.) and the solid that separates is removed by filtration, washed with water and dried. The product, which consists of a mixture of the desired material and the isomer described in Step D, is subjected to column chromatographic separation using 225 gm. of silica gel and chloroform is used for elution. Evaporation of the solvent gives 6,7-dichloro-5-methoxy-2,3-dihydro-1H-inden-1-one, 5.2 gm., m.p. 154°-156° C.

reactant | 4,5-Dichloro-6-methoxy-2,3-dihydro-1H-indene | 0.097 mole, 21 gm | ClC1=C2CCCC2=CC(=C1Cl)OC | C10H10Cl2O
reactant | acetic acid | 280 ml | C(C)(=O)O | C2H4O2
reactant | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
solvent | water | 15 ml | O | H2O
catalyst | chromium trioxide | 0.14 mole, 14 gm | [O-2].[O-2].[O-2].[Cr+6]
solvent | water | 1200 ml | O | H2O
product | 6,7-dichloro-5-methoxy-2,3-dihydro-1H-inden-1-one | ClC1=C(C=C2CCC(C2=C1Cl)=O)OC | C10H8Cl2O2
